US09145441B2
Compound 84d. (S)-1-((S)-2-{(S)-2-[2-(2-Hydroxy-ethyl)-2-methyl-but-3-enoylamino]-3-methyl-butyrylamino}-propionyl)-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide
A cooled (0° C.) solution of ((S)-2-{(S)-3-[(R)-1-(7-bromo-quinolin-2-yl)-ethylcarbamoyl]-tetrahydro-pyridazin-1-yl}-1-methyl-2-oxo-ethyl)-carbamic acid tert-butyl ester (432.0 mg, 0.808 mmol) in dichloromethane (30 mL) was treated with a solution of hydrochloric acid (2.4 mL, 9.699 mmol, 4 M in 1,4-dioxane). After stirring for 2 h at room temperature the volatiles were removed in vacuo. Residual water was azeotroped off with toluene to provide a white solid that was combined with (S)-2-[2-(2-hydroxy-ethyl)-2-methyl-but-3-enoylamino]-3-methyl-butyric acid (196.6 mg, 0.808 mmol) and anhydrous acetonitrile (30 mL). This mixture was cooled to 0° C. and subsequently treated with N,N-diisopropylethylamine (0.71 mL, 4.04 mmol) and 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate (430.1 mg, 1.131 mmol). The reaction was slowly warmed to room temperature. After stirring at room temperature for 20 h, the volatiles were removed in vacuo and the residue was purified by silica gel chromatography using a 50 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/acetone 1:0 to 1:1 to afford the title compound (186.4 mg, 35%) as a yellow foam and as a 1:1 mixture of diastereoisomers. LCMS (m/z) 659.2, 661.1 [M+H], Tr=2.21 min.

reactant | ((S)-2-{(S)-3-[(R)-1-(7-bromo-quinolin-2-yl)-ethylcarbamoyl]-tetrahydro-pyridazin-1-yl}-1-methyl-2-oxo-ethyl)-carbamic acid tert-butyl ester | 0.808 mmol, 432.0 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1N[C@@H](CCC1)C(N[C@H](C)C1=NC2=CC(=CC=C2C=C1)Br)=O)C)=O | C24H32BrN5O4
reactant | hydrochloric acid | 9.699 mmol, 4 M, 2.4 mL | Cl | ClH
reactant | (S)-2-[2-(2-hydroxy-ethyl)-2-methyl-but-3-enoylamino]-3-methyl-butyric acid | 0.808 mmol, 196.6 mg | OCCC(C(=O)N[C@H](C(=O)O)C(C)C)(C=C)C | C12H21NO4
reactant | N,N-diisopropylethylamine | 4.04 mmol, 0.71 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate | 1.131 mmol, 430.1 mg | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | (S)-1-((S)-2-{(S)-2-[2-(2-Hydroxy-ethyl)-2-methyl-but-3-enoylamino]-3-methyl-butyrylamino}-propionyl)-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 186.4 mg, 35% | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)NC(C(C=C)(C)CCO)=O)=O)=O | C31H43BrN6O5
